US05409939
Preparation of (±)-3-[[5-[4-(aminoiminomethyl)phenyl]-1-oxopentyl]amino]-5 -[(phenylmethyl)sulfonyl]pentanoic acid
(±)-3-[[5-[4-(Aminoiminomethyl)phenyl]-1oxopentyl]amino]-5-[(phenylmethyl)sulfinyl]pentanoic acid (2.5 g) was added to water (15 ml), acetic acid (5 ml) and 30% H2O2 (10 ml). The oxidation was allowed to proceed for 24 h. after which the reaction mixture was worked up. The product was purified by reverse phase chromatography (water/acetonitrile) and lyophilized to give 1.6 g of the title compound as a white solid: 1H NMR (d6 -DMSO) δ1.48 (m, 2H), 1.56 (m, 2H), 1.75 (m, 2H), 2.10 (m, 2H), 2.41 (m, 2H), 2.68 (m, 2H), 4.05 (m, 1H), 4.22 (s, 2H), 7.35 (m, 9H), 7.7 (bd, 1H, J=7.9 Hz), 9.10 (bs, 2H), 9.8 (bs, 2H); MS (FAB) m/e 474.2 (M+H+).

reactant | (±)-3-[[5-[4-(Aminoiminomethyl)phenyl]-1oxopentyl]amino]-5-[(phenylmethyl)sulfinyl]pentanoic acid | 2.5 g | NN=CC1=CC=C(C=C1)CCCCC(=O)NC(CC(=O)O)CCS(=O)CC1=CC=CC=C1 | C24H31N3O4S
reactant | water | 15 ml | O | H2O
reactant | H2O2 | 10 ml | OO | H2O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (±)-3-[[5-[4-(aminoiminomethyl)phenyl]-1-oxopentyl]amino]-5 -[(phenylmethyl)sulfonyl]pentanoic acid | 1.6 g | NN=CC1=CC=C(C=C1)CCCCC(=O)NC(CC(=O)O)CCS(=O)(=O)CC1=CC=CC=C1 | C24H31N3O5S
